US08629271B2
a) Ethyl 2-isopropylthiazole-5-carboxylate
A mixture of 2-methylpropanethioamide (3.3 g) and ethyl 2-chloro-3-oxopropanoate (4.82 g) in acetone (50 mL) was heated at reflux under nitrogen for 3 hours. The mixture was cooled to room temperature and the solvent removed under reduced pressure. The crude product was purified by flash silica chromatography using 12% ethyl acetate in isohexane as solvent. Pure fractions were evaporated to dryness to afford the subtitled compound. Yield 1.6 g.

reactant | 2-methylpropanethioamide | 3.3 g | CC(C(N)=S)C | C4H9NS
reactant | ethyl 2-chloro-3-oxopropanoate | 4.82 g | ClC(C(=O)OCC)C=O | C5H7ClO3
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | Ethyl 2-isopropylthiazole-5-carboxylate | C(C)(C)C=1SC(=CN1)C(=O)OCC | C9H13NO2S
